US06855716B2
Synthesis of benzyl 4-(3-chlorophenyl)-3-(3,3-diphenylpropylcarbamoyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate
558 mg (1.50 mmol) of benzyl 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylate and 364 mg (1.81 mmol) of p-nitrophenyl chloroformate were dissolved in 10 ml of dichloromethane. 1 ml of saturated sodium hydrogencarbonate solution was added to the obtained solution at 0° C., and they were stirred at room temperature for 24 hours. The reaction mixture was diluted with dichloromethane and then washed with water and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The product was washed with ether and then dried under reduced pressure to obtain the title compound.

reactant | benzyl 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 1.50 mmol, 558 mg | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(=O)OCC1=CC=CC=C1)C)OC | C20H19ClN2O3
reactant | p-nitrophenyl chloroformate | 1.81 mmol, 364 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium hydrogencarbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | benzyl 4-(3-chlorophenyl)-3-(3,3-diphenylpropylcarbamoyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | ClC=1C=C(C=CC1)C1N(C(NC(=C1C(=O)OCC1=CC=CC=C1)C)=O)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H32ClN3O4
